US08563617B2
248.1 7-Amino-8-benzyl-5,6,7,8-tetrahydronaphthalene-2-carbonitrile
Tert-butyl 1-benzyl-7-cyano-1,2,3,4-tetrahydronaphthalen-2-ylcarbamate (1.1 g, 3.03 mmol) was dissolved in dichloromethane (20 mL) and 5 M hydrochloric acid in isopropanol (2 mL) was added. The reaction mixture was stirred at room temperature for 12 h followed by 4 h at 35° C. The solvent was evaporated in vacuo. Water (30 mL) was added and the pH was adjusted to pH 9 using aqueous saturated sodium bicarbonate solution. The aqueous layer was extracted with dichloromethane. The combined extracts were dried (MgSO4) and the solvent was evaporated in vacuo. Yield: 790 mg (3.03 mmol, 100%).

reactant | Tert-butyl 1-benzyl-7-cyano-1,2,3,4-tetrahydronaphthalen-2-ylcarbamate | 3.03 mmol, 1.1 g | C(C1=CC=CC=C1)C1C(CCC2=CC=C(C=C12)C#N)NC(OC(C)(C)C)=O | C23H26N2O2
reactant | hydrochloric acid | 5 M | Cl | ClH
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | isopropanol | 2 mL | C(C)(C)O | C3H8O
product | 7-Amino-8-benzyl-5,6,7,8-tetrahydronaphthalene-2-carbonitrile | NC1CCC=2C=CC(=CC2C1CC1=CC=CC=C1)C#N | C18H18N2
